US07566735B2
4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid
A mixture of 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole (950 mg, 5.0 mmol), 4-iodobenzoic acid (1.24 g, 5.0 mmol), N,N-dimethylglycine (20 mol %, 103 mg, 1.0 mmol), copper (I) iodide (10 mol %, 95 mg, 0.5 mmol) and potassium carbonate (1.45 g, 10.5 mmol) in dimethylsulfoxide (15 ml) was stirred at 130° C. in an oil bath under argon for 3.25 hours. The reaction mix was then filtered under vacuum and the filtrate separated between ethyl acetate and water. The aqueous layer was retained and acidified to approximately Ph2 using 5M aqueous HCl. The aqueous fraction was then washed 3 times with ethyl acetate. The organic layers were combined and dried over sodium sulphate, and the solvent was removed by rotary evaporation to give the title compound as a brown solid (1.62 g, 100%).

reactant | 3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazole | 5.0 mmol, 950 mg | FC(C1=NNC=2CCCCC12)(F)F | C8H9F3N2
reactant | 4-iodobenzoic acid | 5.0 mmol, 1.24 g | IC1=CC=C(C(=O)O)C=C1 | C7H5IO2
reactant | N,N-dimethylglycine | 1.0 mmol, 103 mg | CN(CC(=O)O)C | C4H9NO2
reactant | potassium carbonate | 10.5 mmol, 1.45 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.5 mmol, 95 mg | [Cu]I
product | 4-[3-(trifluoromethyl)-4,5,6,7-tetrahydro-1H-indazol-1-yl]benzoic acid | 1.62 g, 100% | FC(C1=NN(C=2CCCCC12)C1=CC=C(C(=O)O)C=C1)(F)F | C15H13F3N2O2
